US05374772
Using this procedure, the reaction of 3,5-dihydroxybenzoic acid methyl ester with 3-(3-bromopropoxy)-1,1-biphenyl gave 3,5-bis[3-(1,1'-biphenyl-3-yloxy)propoxy]benzoic acid methyl ester as an oil. The structure was confirmed by nmr and mass spectra.

reactant | 3,5-dihydroxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
reactant | 3-(3-bromopropoxy)-1,1-biphenyl | BrCCCOC=1C=C(C=CC1)C1=CC=CC=C1 | C15H15BrO
product | 3,5-bis[3-(1,1'-biphenyl-3-yloxy)propoxy]benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCCCOC=1C=C(C=CC1)C1=CC=CC=C1)OCCCOC=1C=C(C=CC1)C1=CC=CC=C1)=O | C38H36O6
